US09388189B2
b) N-(3,5-Dihydroxyphenyl)methanesulfonamide
N-(3,5-Dimethoxyphenyl)methanesulfonamide (1.7 g, 6.53 mmol) was dissolved in dichloromethane (28 ml). A solution of boron tribromide (1 M in dichloromethane, 33 mL, 33 mmol) was added dropwise and the reaction was stirred at room temperature overnight. Boron tribromide (1M in dichloromethane, 10 ml, 10 mmol) was added and the mixture was stirred for 3 hours. The mixture was diluted with ethyl acetate and washed with a solution of 4% sodium bicarbonate, water, brine and dried over sodium sulphate, filtered and evaporated under reduced pressure. The product was purified by reverse phase using SP1® Purification System to give 344 mg (26% yield) of the title compound. Purity 99%.

reactant | N-(3,5-Dimethoxyphenyl)methanesulfonamide | 6.53 mmol, 1.7 g | COC=1C=C(C=C(C1)OC)NS(=O)(=O)C | C9H13NO4S
reactant | boron tribromide | 33 mmol, 1 M, 33 mL | B(Br)(Br)Br | BBr3
reactant | Boron tribromide | 10 mmol, 1M, 10 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 28 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3,5-Dihydroxyphenyl)methanesulfonamide | 344 mg, 26% yield | OC=1C=C(C=C(C1)O)NS(=O)(=O)C | C7H9NO4S
